US06521757B1
β,β-Dibromo-4-isopropoxy-3-methoxystyrene:
Carbon tetrabromide (51.3 g, 154.7 mmol) was added portion-wise to a magnetically stirred mixture of zinc dust (0.1 g, 154.5 mmol) and PP3 (40.5 g, 159.4 mmol) in CH2Cl2 (350 ml) maintained at 0° C. on an ice-salt bath. This suspension was allowed to warm to room temperature and then stirred at for a further 22 h. After this time the reaction mixture was re-cooled to 0° C. and vanillin isopropyl ether (15.0 g, 77.3 mmol) was added dropwise over 2 min. and allowed to stir at room temperature for 1 h. After dilution with hexane (200 ml) the resulting mixture was filtered through a sintered glass funnel and the filtrate concentrated on to silica gel (30 g). The resulting solid was added to the top of a flash chromatography column (silica gel: 20 cm long×10 cm wide) which was subjected to gradient elution (2:1, 1:1 and then 1:2 hexane/CH2Cl2). Concentration of the appropriate fractions (Rf 0.5 in 1:1 hexane/CH2Cl2) then afforded the title compound (27.2 g, 99.8%) as white crystalline masses, m.p. 36-38° C. IR(KBr disc, cm−1) 2976, 2973, 1599, 1510.1464, 1418, 1383, 1373, 1267, 1235, 1141, 1110, 1036. 1H NMR (300 MHz, CDCl3) δ7.41 (s, 1H), 7.21 (d, J=2.1 Hz, 1H), 7.07 (dd, J=2.1, 8.4 Hz, 1H), 6.87 (d, J=8.4 Hz), 4.58 (septet J=6.0 Hz, 1H), 3.87 (s, 3H), 1.39 (d, J=6.0 Hz, 6H). 13C NMR+APT (75.5 MHz, CDCl3) δ149.7 (C), 147.7 (C), 136.5 (CH), 127.9 (C), 121.9 (CH), 114.4 (CH), 111.8 (CH), 87.1 (CH), 71.1 (CH), 56.0 (CH3), 22.1 (CH3). MS (70 eV) m/z(%): 352 (28), 350 (49), 448 (31) (M+•), 310 (51), 308 (100), 306 (54) M+•−CH2CHCH3), 295 (34), 293 (38), 291 (36) (M+•−CH2CHCH3—CH). Anal. Calcd for C12H14O2Br2, 41.17; H. 4.03; Br, 45.65. Found: C, 41.21; H, 3.92; Br, 45.47.

reactant | Carbon tetrabromide | 154.7 mmol, 51.3 g | C(Br)(Br)(Br)Br | CBr4
reactant | vanillin isopropyl ether | 77.3 mmol, 15.0 g | C(C)(C)OC1=C(C=C(C=O)C=C1)OC | C11H14O3
solvent | CH2Cl2 | 350 ml | C(Cl)Cl | CH2Cl2
catalyst | zinc | 154.5 mmol, 0.1 g | [Zn] | Zn
product | β,β-Dibromo-4-isopropoxy-3-methoxystyrene | 27.2 g, 99.8% | BrC(=CC1=CC(=C(C=C1)OC(C)C)OC)Br | C12H14Br2O2
